* CDL/LVS-oriented netlist
.SUBCKT xnor4_x1 A1 A2 A3 A4 X VDD VSS
XX40A_nr_PA0 pmid_X40A_nr_0 A1 VDD VDD pmos w=2u l=100n
XX40A_nr_PB0 x_nor_0a A2 pmid_X40A_nr_0 VDD pmos w=2u l=100n
XX40A_nr_NA0 x_nor_0a A1 VSS VSS nmos w=1u l=100n
XX40A_nr_NB0 x_nor_0a A2 VSS VSS nmos w=1u l=100n
XX40A_iv_P0 x_or_0a x_nor_0a VDD VDD pmos w=2u l=100n
XX40A_iv_N0 x_or_0a x_nor_0a VSS VSS nmos w=1u l=100n
XX40A_nd_PA0 x_nand_0a A1 VDD VDD pmos w=2u l=100n
XX40A_nd_PB0 x_nand_0a A2 VDD VDD pmos w=2u l=100n
XX40A_nd_NB0 x_nand_0a A2 nmid_X40A_nd_0 VSS nmos w=1u l=100n
XX40A_nd_NA0 nmid_X40A_nd_0 A1 VSS VSS nmos w=1u l=100n
XX40A_na_PA0 x_pre_0a x_or_0a VDD VDD pmos w=2u l=100n
XX40A_na_PB0 x_pre_0a x_nand_0a VDD VDD pmos w=2u l=100n
XX40A_na_NB0 x_pre_0a x_nand_0a nmid_X40A_na_0 VSS nmos w=1u l=100n
XX40A_na_NA0 nmid_X40A_na_0 x_or_0a VSS VSS nmos w=1u l=100n
XX40A_xo_P0 xx4_01_0 x_pre_0a VDD VDD pmos w=2u l=100n
XX40A_xo_N0 xx4_01_0 x_pre_0a VSS VSS nmos w=1u l=100n
XX40B_nr_PA0 pmid_X40B_nr_0 xx4_01_0 VDD VDD pmos w=2u l=100n
XX40B_nr_PB0 x_nor_0b A3 pmid_X40B_nr_0 VDD pmos w=2u l=100n
XX40B_nr_NA0 x_nor_0b xx4_01_0 VSS VSS nmos w=1u l=100n
XX40B_nr_NB0 x_nor_0b A3 VSS VSS nmos w=1u l=100n
XX40B_iv_P0 x_or_0b x_nor_0b VDD VDD pmos w=2u l=100n
XX40B_iv_N0 x_or_0b x_nor_0b VSS VSS nmos w=1u l=100n
XX40B_nd_PA0 x_nand_0b xx4_01_0 VDD VDD pmos w=2u l=100n
XX40B_nd_PB0 x_nand_0b A3 VDD VDD pmos w=2u l=100n
XX40B_nd_NB0 x_nand_0b A3 nmid_X40B_nd_0 VSS nmos w=1u l=100n
XX40B_nd_NA0 nmid_X40B_nd_0 xx4_01_0 VSS VSS nmos w=1u l=100n
XX40B_na_PA0 x_pre_0b x_or_0b VDD VDD pmos w=2u l=100n
XX40B_na_PB0 x_pre_0b x_nand_0b VDD VDD pmos w=2u l=100n
XX40B_na_NB0 x_pre_0b x_nand_0b nmid_X40B_na_0 VSS nmos w=1u l=100n
XX40B_na_NA0 nmid_X40B_na_0 x_or_0b VSS VSS nmos w=1u l=100n
XX40B_xo_P0 xx4_23_0 x_pre_0b VDD VDD pmos w=2u l=100n
XX40B_xo_N0 xx4_23_0 x_pre_0b VSS VSS nmos w=1u l=100n
XX40C_nr_PA0 pmid_X40C_nr_0 xx4_23_0 VDD VDD pmos w=2u l=100n
XX40C_nr_PB0 x_nor_0c A4 pmid_X40C_nr_0 VDD pmos w=2u l=100n
XX40C_nr_NA0 x_nor_0c xx4_23_0 VSS VSS nmos w=1u l=100n
XX40C_nr_NB0 x_nor_0c A4 VSS VSS nmos w=1u l=100n
XX40C_iv_P0 x_or_0c x_nor_0c VDD VDD pmos w=2u l=100n
XX40C_iv_N0 x_or_0c x_nor_0c VSS VSS nmos w=1u l=100n
XX40C_nd_PA0 x_nand_0c xx4_23_0 VDD VDD pmos w=2u l=100n
XX40C_nd_PB0 x_nand_0c A4 VDD VDD pmos w=2u l=100n
XX40C_nd_NB0 x_nand_0c A4 nmid_X40C_nd_0 VSS nmos w=1u l=100n
XX40C_nd_NA0 nmid_X40C_nd_0 xx4_23_0 VSS VSS nmos w=1u l=100n
XX40C_na_PA0 X x_or_0c VDD VDD pmos w=2u l=100n
XX40C_na_PB0 X x_nand_0c VDD VDD pmos w=2u l=100n
XX40C_na_NB0 X x_nand_0c nmid_X40C_na_0 VSS nmos w=1u l=100n
XX40C_na_NA0 nmid_X40C_na_0 x_or_0c VSS VSS nmos w=1u l=100n
.ENDS xnor4_x1
